US05153342
A process according to claim 1 wherein 2,2,4-trimethyl-1,3-pentanediol is transesterified with methyl benzoate to produce 2,2,4-trimethyl-1,3-pentanediol dibenzoate.

reactant | 2,2,4-trimethyl-1,3-pentanediol | CC(CO)(C(C(C)C)O)C | C8H18O2
reactant | methyl benzoate | C(C1=CC=CC=C1)(=O)OC | C8H8O2
product | 2,2,4-trimethyl-1,3-pentanediol dibenzoate | C(C1=CC=CC=C1)(=O)OCC(C(C(C)C)OC(C1=CC=CC=C1)=O)(C)C | C22H26O4
